US07615642B2
N-Allyl-1-{[2-tert-butyl-1-(tetrahydro-2H-pyran-4-ylmethyl)-1H-benzimidazol-5-yl]sulfonyl}-1H-pyrrole-3-carboxamide
Following the same procedure in Example 33, step A, using DIPEA (0.1 mL, 74 mg, 0.57 mmol), 1-{[2-tert-butyl-1-(tetrahydro-2H-pyran-4-ylmethyl)-1H-benzimidazol-5-yl]sulfonyl}-1H-pyrrole-3-carboxylic acid (0.078 mmol) (see the step B in example 33 for preparation), allylamine (0.1 mL, 76 mg, 1.33 mmol) and HATU (100 mg, 0.31 mmol) in DMF (5 mL). The crude product was purified by MPLC using Hex/EtOAc (3:7) on silica gel to 32 mg (85%) of a white solid as the title compound. 1H NMR (400 MHz, METHANOL-D4) δ 1.41-1.57 (m, 4 H), 1.60 (s, 9 H), 2.20-2.41 (m, 1 H), 3.24-3.38 (m, 2 H), 3.84-3.97 (m, 4 H), 4.43 (d, J=7.42 Hz, 2 H), 5.03-5.10 (m, 1 H), 5.10-5.19 (m, 1 H), 5.75-5.94 (m, 1 H), 6.67 (dd, J=3.32, 1.76 Hz, 1 H), 7.30 (dd, J=3.42, 2.25 Hz, 1 H), 7.79-7.85 (m, 1 H), 7.93 (d, J=9.0 Hz, 1H), 7.970 (dd, dd=9.0, 1.8 Hz, 1 H), 8.27 (d, J=1.76 Hz, 1 H); MS (ESI) (M+H)+=484.7; Anal. Calcd for C25H32N4O4S+0.90 TFA+0.20H2O (590.85): C, 54.48; H, 5.68; N, 9.48. Found: C, 54.53; H, 5.69; N, 9.57.

reactant | DIPEA | 0.57 mmol, 0.1 mL, 74 mg | CCN(C(C)C)C(C)C | C8H19N
reactant | 1-{[2-tert-butyl-1-(tetrahydro-2H-pyran-4-ylmethyl)-1H-benzimidazol-5-yl]sulfonyl}-1H-pyrrole-3-carboxylic acid | 0.078 mmol | C(C)(C)(C)C1=NC2=C(N1CC1CCOCC1)C=CC(=C2)S(=O)(=O)N2C=C(C=C2)C(=O)O | C22H27N3O5S
reactant | allylamine | 1.33 mmol, 0.1 mL, 76 mg | C(C=C)N | C3H7N
reactant | HATU | 0.31 mmol, 100 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | N-Allyl-1-{[2-tert-butyl-1-(tetrahydro-2H-pyran-4-ylmethyl)-1H-benzimidazol-5-yl]sulfonyl}-1H-pyrrole-3-carboxamide | C(C=C)NC(=O)C1=CN(C=C1)S(=O)(=O)C1=CC2=C(N(C(=N2)C(C)(C)C)CC2CCOCC2)C=C1 | C25H32N4O4S
